Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Motor vehicle collision 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ with a history of Lyme arthritis of the left shoulder 
presenting s/p rollover
MVC. Pt was feeling ill this morning with diffuse abdominal 
pain. Was out with
friends, and then was driving her vehicle home and she blacked 
out. She does
not remember any of these events. Unclear if airbags deployed or 
seatbelts
were worn per EMS, reportedly found in back seat of car. Now c/o 
low right abd
pain, chronic back pain, no other acute complaints.
 
Past Medical History:
ARTHRITIS 
ASTHMA 
BLIND ONE EYE / RETINAL HEMORRHAGE 
DEPRESSION 
HYPERLIPIDEMIA 
INSOMNIA 
KNEE PAIN 
MIGRAINES 
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Discharge Physical Exam:
VS: T 98.1 BP 163/82 HR 73 RR 18 95%RA 
GEN: NAD, AAOx3
HEENT: normal conjunctiva, midface stable, no tenderness to 
palpation
CV: RRR
PULM: Unlabored breathing on room air, mildly TTP on the right 
anterior chest, no crepitus
ABD: Soft, nondistended, nontender
EXT: wwp
 
Pertinent Results:
___ 07:00AM BLOOD WBC-7.2 RBC-3.91 Hgb-11.1* Hct-34.9 
MCV-89 MCH-28.4 MCHC-31.8* RDW-14.4 RDWSD-46.7* Plt ___
___ 01:57PM BLOOD Neuts-71.4* Lymphs-17.9* Monos-7.8 
Eos-0.9* Baso-0.8 Im ___ AbsNeut-7.72* AbsLymp-1.93 
AbsMono-0.84* AbsEos-0.10 AbsBaso-0.09*
___ 03:29PM BLOOD ___ PTT-23.2* ___
___ 07:00AM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-139 
K-4.4 Cl-101 HCO3-25 AnGap-13
___ 02:15PM BLOOD ALT-12 AST-20 AlkPhos-95 TotBili-0.3
___ 02:15PM BLOOD Lipase-27
___ 07:00AM BLOOD Calcium-9.4 Phos-3.8 Mg-1.9
___ 02:15PM BLOOD ASA-NEG Ethanol-NEG Tricycl-NEG
___ 02:07PM BLOOD pO2-97 pCO2-32* pH-7.49* calTCO2-25 Base 
XS-1 Comment-GREEN TOP
___ 02:07PM BLOOD Glucose-109* Lactate-1.8 Na-133 K-4.2 
Cl-97
___ 03:15PM BLOOD Lactate-1.2
___ 02:07PM BLOOD Hgb-11.7* calcHCT-35 O2 Sat-95 COHgb-4 
MetHgb-0

 
 

Final Report 
INDICATION:  Injury 
  
TECHNIQUE:  Supine AP portable views of the chest 
  
COMPARISON:  None. 
  
FINDINGS:  
  
Minimal left base atelectasis is seen without focal 
consolidation.  No pleural 
effusion or evidence of pneumothorax is seen.  Cardiac 
silhouette size is 
moderately enlarged.  Mediastinal contours are unremarkable.  
The aortic knob 
is calcified.  No displaced fracture is identified.  
Nondisplaced fracture 
right rib fractures seen on subsequent CT were better assessed 
on CT, a more 
sensitive study. 
  
IMPRESSION:  
  
Minimal left base atelectasis without focal consolidation. 
  
Moderate enlargement of the cardiac silhouette. 
  
Right-sided nondisplaced rib fracture seen on subsequent CT were 
better 
assessed on CT, a more sensitive study. 
  
___, MD electronically signed on WED ___ 
3:07 ___ 
 
Wet Read by ___ on WED ___ 4:50 ___ 
  
1. Acute mildly displaced fracture of the anterior aspect of the 
right second 
rib and acute non-displaced fractures of the anterolateral 
aspects of the 
right fifth and sixth ribs. 
2. Chronic right eighth rib fracture. 
3. No evidence of traumatic solid organ injury in the torso. 
Specifically, no 
evidence of free fluid in the abdomen pelvis. 
4. Large hiatal hernia and presumed food contents of esophagus. 
The patient 
may be at risk for aspiration. 
5. Left ovarian simple cyst measuring 2.7 x 2.6 cm. Comparison 
with prior 
pelvic ultrasound or other imaging, if available, is recommended 
to document 
stability. If not available, nonurgent outpatient out the 
ultrasound is 
recommended. 
  
 
  
*** ED URGENT ATTENTION *** 
 

Final Report 
EXAMINATION:  CT torso with intravenous contrast 
  
INDICATION:  ___ female in motor vehicle collision with 
loss of 
consciousness and right chest wall tenderness.  Evaluate for 
injury. 
  
TECHNIQUE:  MDCT axial images were acquired through the chest, 
abdomen and 
pelvis following intravenous contrast administration with split 
bolus 
technique. 
Oral contrast was not administered. 
Coronal and sagittal reformations were performed and reviewed on 
PACS. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 8.2 s, 64.3 cm; CTDIvol = 15.2 mGy 
(Body) DLP = 976.1 
mGy-cm. 
 Total DLP (Body) = 976 mGy-cm. 
  
COMPARISON:  Total exam DLP: 976.09 mGy-cm 
  
FINDINGS:  
  
CHEST: 
  
HEART AND VASCULATURE: The thoracic aorta is normal in caliber 
without 
evidence of acute injury.  The heart is not enlarged.  Mitral 
annular 
calcifications are mild.  There is no pericardial effusion. 
  
AXILLA, HILA, AND MEDIASTINUM: A pericardial recess is noted.  
No axillary, 
mediastinal, or hilar lymphadenopathy is present.  No 
mediastinal mass or 
hematoma. 
  
PLEURAL SPACES: No pleural effusion or pneumothorax. 
  
LUNGS/AIRWAYS: There is dependent atelectasis in the bilateral 
lower lobes and 
subsegmental atelectasis in the bilateral lower lobes, right 
middle lobe, and 
lingula.  There is no consolidation or suspicious pulmonary 
nodule. 
  
BASE OF NECK: The partially visualized thyroid is unremarkable. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesion or laceration.  There is no 
evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesion or laceration. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
Subcentimeter hypoattenuated foci in both kidneys measuring up 
to 0.7 cm 
across maximal diameter in the upper pole of the left kidney 
(2:103) are too 
small to characterize.  There is no hydronephrosis or 
perinephric abnormality. 
  
GASTROINTESTINAL: There is a large hiatal hernia and the 
esophagus is patulous 
with presumed food contents above the level of the large hiatal 
hernia.  Small 
bowel loops demonstrate normal caliber, wall thickness, and 
enhancement 
throughout.  There is diverticulosis of the distal descending 
and sigmoid 
colon without evidence of diverticulitis.  Although the appendix 
is not 
definitely visualized, there is a candidate for the appendix 
(2:176), 601:38) 
which is normal.  There is no secondary sign of acute 
appendicitis.  There is 
no evidence of mesenteric injury.  here is no free fluid or free 
air in the 
abdomen. 
  
PELVIS: 
  
The urinary bladder and distal ureters are unremarkable.  There 
is no free 
fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The uterus is unremarkable.  There is a 
low-attenuation 
rounded left ovarian cyst measuring 2.6 x 2.7 cm (2:177).  The 
right ovary 
appears unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: The abdominal aorta is tortuous.  There is no 
abdominal aortic 
aneurysm or retroperitoneal hematoma.  Moderate atherosclerotic 
disease is 
noted. 
  
BONES: There is a minimally displaced fracture of the anterior 
aspect of the 
right second rib (03:42).  There are acute nondisplaced 
fractures of the 
anterolateral aspect of the right fifth and sixth ribs (3:71 and 
82).  There 
is a chronic fracture of the lateral aspect of the right eighth 
rib (3:107).  
There are moderate multilevel degenerative changes of the 
thoracolumbar spine. 
  
SOFT TISSUES: There is a fat containing umbilical hernia. 
  
IMPRESSION: 
  
  
1. Acute mildly displaced fracture of the anterior aspect of the 
right second 
rib and acute non-displaced fractures of the anterolateral 
aspects of the 
right fifth and sixth ribs. 
2. Chronic right eighth rib fracture. 
3. No evidence of traumatic solid organ injury in the torso.  
Specifically, no 
evidence of free fluid in the abdomen pelvis. 
4. Large hiatal hernia and presumed food/debris contents of 
esophagus, which 
extend to just above the level the carina.  The patient may be 
at risk for 
aspiration. 
5. Left ovarian simple cyst measuring 2.7 x 2.6 cm.  Comparison 
with prior 
pelvic ultrasound or other imaging, if available, is recommended 
to document 
stability.  If not available, nonurgent outpatient pelvic 
ultrasound is 
recommended, given the patient is postmenopausal. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on WED ___ 
4:50 ___ 
 
 

 
Wet Read by ___ on WED ___ 3:11 ___ 
  
1. Mild-to-moderate anterolisthesis of C7 on T1 is 
age-indeterminate but 
thought most likely to be degenerative in nature. No acute 
cervical spine 
fracture. 
2. The thyroid demonstrates heterogeneity and a 1.3 cm 
hypodensity in the 
right lobe. No further imaging necessary as per ACR guidelines. 
3. Patulous esophagus containing debris, which may increase 
aspiration risk. 
  
  
 

Wet Read Audit # 1 by ___ on WED ___ 2:51 ___ 

  
1. Moderate anterolisthesis of C7 on T1 is age-indeterminate but 
thought to be 
degenerative in nature. No acute fracture. 
2. The thyroid demonstrates heterogeneity and a 1.3 cm cyst in 
the right lobe. 
No further imaging necessary as per ACR guidelines. 
  
 

Wet Read Audit # 2 by ___ on WED ___ 2:56 ___ 

  
1. Moderate anterolisthesis of C7 on T1 is age-indeterminate but 
thought to be 
degenerative in nature. No acute fracture. 
2. The thyroid demonstrates heterogeneity and a 1.3 cm cyst in 
the right lobe. 
No further imaging necessary as per ACR guidelines. 
3. Patulous esophagus containing debris, which may increase 
aspiration risk. 
  
 

Final Report 
EXAMINATION:  CT C-SPINE W/O CONTRAST 
  
INDICATION:  History: ___ s/p MVC with + LOC*** WARNING *** 
Multiple patients 
with same last name!// ___ y female MVC and LOC 
  
TECHNIQUE:  Contiguous axial images obtained through the 
cervical spine 
without intravenous contrast. Coronal and sagittal reformats 
were reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 5.9 s, 23.3 cm; CTDIvol = 22.8 mGy 
(Body) DLP = 530.4 
mGy-cm. 
   2) Sequenced Acquisition 0.5 s, 2.0 cm; CTDIvol = 15.0 mGy 
(Body) DLP = 
30.0 mGy-cm. 
 Total DLP (Body) = 560 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
No fractures are identified.There is mild to moderate 
anterolisthesis of C7 on 
T1.  Degenerative changes are moderate-severe include 
intervertebral disc 
height loss, subchondral sclerosis and osteophytosis.There is no 
prevertebral 
edema. 
  
The thyroid demonstrates heterogeneity and a 1.3 cm 
heterogeneous region in 
the right lobe.  Lung apices are within normal limits. Note is 
made of a 
patulous esophagus containing debris. 
  
IMPRESSION: 
  
  
1. Mild-to-moderate anterolisthesis of C7 on T1 is 
age-indeterminate but 
thought most likely to be degenerative in nature.  No acute 
cervical spine 
fracture. 
2. The thyroid demonstrates heterogeneity and a 1.3 cm 
hypodensity nodular 
region in the right lobe.  No further imaging necessary as per 
ACR guidelines. 
3. Patulous esophagus containing debris, which may increase 
aspiration risk. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on WED ___ 
3:11 ___ 
 
Wet Read by ___ on WED ___ 2:40 ___ 
No acute intracranial findings. 
 

Final Report 
EXAMINATION:  CT HEAD W/O CONTRAST Q111 CT HEAD 
  
INDICATION:  History: ___ s/p MVC with + LOC*** WARNING *** 
Multiple patients 
with same last name!// ___ y female MVC and LOC 
  
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without 
contrast. Coronal and sagittal reformations as well as bone 
algorithm 
reconstructions were provided and reviewed. 
  
DOSE:  Acquisition sequence: 
   1) Sequenced Acquisition 8.0 s, 18.0 cm; CTDIvol = 44.7 mGy 
(Head) DLP = 
802.7 mGy-cm. 
 Total DLP (Head) = 803 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is no evidence of acute intracranial 
infarction,hemorrhage,edema, or 
mass effect.  The ventricles and sulci are normal for age. 
  
There is no evidence of acute fracture.  Mild thickening and 
mucosal retention 
cyst in the right maxillary sinus.  the visualized portion of 
the paranasal 
sinuses, mastoid air cells, and middle ear cavities are clear. 
  
IMPRESSION: 
  
  
1. No acute intracranial findings. 
  
BY ELECTRONICALLY SIGNING THIS REPORT, I THE ATTENDING PHYSICIAN 
ATTEST THAT ___ HAVE REVIEWED THE ABOVE IMAGES FOR THE ABOVE 
EXAMINATION(S) AND AGREE WITH THE FINDINGS AS DOCUMENTED ABOVE. 
  
___, MD 
___, MD electronically signed on WED ___ 
3:12 ___ 
 

 
Brief Hospital Course:
Ms. ___ is an ___ w/ hx of Lyme disease, arthritis, chronic 
pain, urinary
incontinence, GERD, anxiety, and depression who presented to 
___ s/p rollover motor vehicle crash, +LOC.  She was found to 
have multiple right-sided rib fractures and a left elbow 
laceration. She was admitted to the Acute Care Surgery service 
for pain control, physical therapy and pulmonary toilet.  The 
Medicine service was consulted for syncopal workup and an ECHO 
was recommended which was...

She continued to recover well on the floor. She was seen by 
physical therapy who recommended discharge home. This was 
discussed with the patient her family, and the decision was made 
to discharge her home with a home visiting nurse and home 
physical therapy. At time of discharge, she was ambulating with 
a cane, she was voiding independently, she was tolerating a 
regular diet, and her pain was well controlled. She was 
discharged home with follow up scheduled with her primary care 
doctor.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 5 mg PO BID 
2. Omeprazole 20 mg PO BID 
3. LORazepam 1 mg PO BID:PRN Back spasms 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. OxyCODONE (Immediate Release) Dose is Unknown  PO Frequency 
is Unknown 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice daily 
Disp #*30 Capsule Refills:*0 
3.  Senna 17.2 mg PO QHS:PRN Constipation - First Line 
RX *sennosides 8.6 mg 1 tablet by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*30 
Tablet Refills:*0 
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  LORazepam 1 mg PO BID:PRN Back spasms  
7.  Omeprazole 20 mg PO BID  
8.  Oxybutynin 5 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right ___, and 6th rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital following your car accident. 
You were found to have fractures of your right ___, and ___ 
ribs. Your breathing has recovered well, and you have no 
additional new injuries. You were evaluated by our Trauma team 
and our physical therapists. You are now well enough for 
discharge home.

Pain control:
You may take ibuprofen and acetaminophen to control your pain. 
You may also take oxycodone for your severe pain. It is 
important to control your rib pain so that you can take deep 
breaths. If your pain is worsening please call the clinic or go 
to the Emergency Department.

Breathing: 
It is important to take deep breaths to prevent collapse of the 
lung or pneumonia. Please use your spirometer 10 times per hour 
for all hours that you are awake. Please be sure to walk often 
and to be out of bed as much as possible when awake. 

Activity:
Do not do activities that require twisting, including golfing 
and tennis, for ___ weeks. You cannot drive a car for 6 months 
or until you are cleared by your primary care doctor per 
___ law. Otherwise, there are no activity 
restrictions.

Diet:
You may resume your regular diet.

Follow up:
Please follow up with your primary care doctor.

We hope you feel better soon!
Your Trauma Surgery Team
 
Followup Instructions:
___